US04929741
A solution of 10 g (72 mmol) of 3-methyl-2-butenyl propiolate in 100 ml of tetrahydrofuran was treated at -78° under argon with 47 ml of n-butyllithium (1.6M in hexane). The mixture was stirred at -78° for 10 minutes and then a solution of 10.9 g (72 mmol) of 3,4-methylenedioxybenzaldehyde in 120 ml of tetrahydrofuran was added within 30 minutes. The reaction mixture was stirred at -78° for a further 30 minutes then brought to room temperature and treated with 120 ml of saturated ammonium chloride solution. The aqeuous phase was extracted twice with ether; the organic phases were washed in succession with saturated sodium chloride solution and with water, dried over sodium sulphate and concentrated. The residue was purified by flash chromatography on 1000 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1). There was obtained 3-methyl-2-butenyl 4-hydroxy-4-[3,4-(methylenedioxy)phenyl]-2-butynoate as a yellow oil.

reactant | 3-methyl-2-butenyl propiolate | 72 mmol, 10 g | C(C#C)(=O)OCC=C(C)C | C8H10O2
reactant | n-butyllithium | 1.6M, 47 ml | C(CCC)[Li]
reactant | 3,4-methylenedioxybenzaldehyde | 72 mmol, 10.9 g | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | ammonium chloride | 120 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 3-methyl-2-butenyl 4-hydroxy-4-[3,4-(methylenedioxy)phenyl]-2-butynoate | OC(C#CC(=O)OCC=C(C)C)C1=CC2=C(C=C1)OCO2 | C16H16O5
